US07592477B2
4-(4-Carboxyphenyl)benzylamine hydrochloride (10 g, 0.038 mol) was taken in a mixture of 10% Na2CO3 (100 mL) and dioxane (25 mL). To this a solution of Fmoc-OSu (15.4 g, 0.045 mol) in dioxane (50 mL) was added at 10° C. and the reaction was stirred at RT for 4 h. Solvent was removed under reduced pressure and the residue was acidified with an aqueous solution of HCl (1.5 N), extracted with EtOAc and the crude was recrystallised from EtOAc to give N-Fmoc-4-(4-carboxyphenyl)benzylamine (8.5 g, 45%).

reactant | 4-(4-Carboxyphenyl)benzylamine hydrochloride | 0.038 mol, 10 g | Cl.C(=O)(O)C1=CC=C(C=C1)C1=CC=C(CN)C=C1
reactant | Fmoc-OSu | 0.045 mol, 15.4 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
solvent | Na2CO3 | 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-Fmoc-4-(4-carboxyphenyl)benzylamine | 8.5 g, 45% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C29H23NO4
